US04772681
Synthesis of 7,12-diethenyl-3,8,13,17-tetramethyl-2,18-bis(3-pyridiniopropyl)-21H,23H-porphin dibromide
To 100 mg of 7,12-diethenyl-3,8,13,17-tetramethyl-2,18-bis(3-bromopropyl)-21H,23H-porphin, 2 ml of pyridine is added, followed by refluxing for 5 hours. The precipitated crystals are recovered by filtration, washed with 3 ml of pyridine and dried, whereby 116 mg (yield 94.5 of brownish black desired compound is obtained.

reactant | 7,12-diethenyl-3,8,13,17-tetramethyl-2,18-bis(3-bromopropyl)-21H,23H-porphin | 100 mg | C(=C)C=1C2=CC3=C(C(=C(N3)C=C3C(=C(C(C=C4C(=C(C(=CC(C1C)=N2)N4)C=C)C)=N3)C)CCCBr)CCCBr)C | C34H36Br2N4
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 7,12-diethenyl-3,8,13,17-tetramethyl-2,18-bis(3-pyridiniopropyl)-21H,23H-porphin dibromide | [Br-].[Br-].C(=C)C=1C2=CC3=C(C(=C(N3)C=C3C(=C(C(C=C4C(=C(C(=CC(C1C)=N2)N4)C=C)C)=N3)C)CCC[N+]3=CC=CC=C3)CCC[N+]3=CC=CC=C3)C | InChI=1S/C44H46N6.2BrH/c1-7-33-29(3)37-25-38-31(5)35(17-15-23-49-19-11-9-12-20-49)43(47-38)28-44-36(18-16-24-50-21-13-10-14-22-50)32(6)40(48-44)27-42-34(8-2)30(4)39(46-42)26-41(33)45-37;;/h7-14,19-22,25-28,45,48H,1-2,15-18,23-24H2,3-6H3;2*1H/q+2;;/p-2
